US07589116B2
Ethyl-1-(3-Chloro-4-fluorophenyl)-5-methyl-1H-pyrazole-3-carboxylate
A solution of 3-chloro-4-fluorophenylhydrazine (2 g, 12.4 mmol) and ethyl-2,4-dioxovalerate (2.36 g, 14.9 mmol) in ethanol (40 ml) was refluxed for 16 hours, then cooled to room temperature and partitioned between EtOAc and water. The organic layer was washed with saturated bicarbonate, brine solution, dried over sodium sulfate, filtered, concentrated and purified by silica-gel column chromatography using 4% EtOAc in heaxanes to give the product (2.45 g, 71%) as a solid.

reactant | 3-chloro-4-fluorophenylhydrazine | 12.4 mmol, 2 g | ClC=1C=C(C=CC1F)NN | C6H6ClFN2
reactant | ethyl-2,4-dioxovalerate | 14.9 mmol, 2.36 g | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl-1-(3-Chloro-4-fluorophenyl)-5-methyl-1H-pyrazole-3-carboxylate | 2.45 g, 71% | C(C)OC(=O)C1=NN(C(=C1)C)C1=CC(=C(C=C1)F)Cl | C13H12ClFN2O2
